US03965102
1,2,3,6-Tetrahydro-1-methyl-4-styrylpyridine hydrochloride
To a cooled and stirred solution of 1,2,3,6-tetrahydro-1-methyl-4-styrylpyridine (53.6 g) prepared according to the method of Gautier (Ph. D. Thesis, University of New Hampshire, 1966 p. 134) in dry ether (300 ml.), isopropanol saturated with dry hydrochloric acid is added until precipitation was complete. The product after ether washing and recrystallization from methanol-ether is obtained in a 68 percent yield, which melts with decomposition at 289.5°-290°C.

reactant | 1,2,3,6-tetrahydro-1-methyl-4-styrylpyridine | 53.6 g | CN1CCC(=CC1)C=CC1=CC=CC=C1 | C14H17N
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 300 ml | CCOCC | C4H10O
product | 1,2,3,6-Tetrahydro-1-methyl-4-styrylpyridine hydrochloride | 68 percent yield | Cl.CN1CCC(=CC1)C=CC1=CC=CC=C1 | InChI=1S/C14H17N.ClH/c1-15-11-9-14(10-12-15)8-7-13-5-3-2-4-6-13;/h2-9H,10-12H2,1H3;1H
